US07649002B2
Methyl (3S,4R)-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate
Palladium hydroxide (20% on carbon, 1 g) was added to a solution of methyl (3S,4R)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate, from preparation 30 (10 g, 30 mmol) in ethanol (50 mL) at room temperature. The reaction mixture was hydrogenated at 50 psi for 24 hours and then filtered through Arbocel® washing with ethanol (50 mL). The solvent was removed in vacuo to give the desired compound as a colourless oil, 7.19 g (98%).

reactant | methyl (3S,4R)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=C(C=C1)F)F)C(=O)OC | C19H19F2NO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Palladium hydroxide | 1 g | [OH-].[Pd+2].[OH-]
product | Methyl (3S,4R)-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CNC1)C(=O)OC | C12H13F2NO2
